US07524847B2
4-[5-(2-Butynylamino)-6-methylamino-pyrimidine-4-yl]piperazine-1-carboxylic acid t-butyl ester
4-(5-Amino-6-methylamino-pyrimidin-4-yl)piperazine-1-carboxylic acid t-butyl ester (200 mg) was dissolved in N,N-dimethylformamide (5.0 mL), and then 1-bromo-2-butyne (57 μL) and anhydrous potassium carbonate (107 mg) were added to this solution. The reaction solution was stirred at room temperature for 20 hours, and then poured into a saturated aqueous ammonium chloride solution. It was then extracted with ethyl acetate, and the obtained organic layer was washed with water and saturated brine. The obtained organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (118 mg).

reactant | 4-(5-Amino-6-methylamino-pyrimidin-4-yl)piperazine-1-carboxylic acid t-butyl ester | 200 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=C1N)NC | C14H24N6O2
reactant | 1-bromo-2-butyne | 57 μL | BrCC#CC | C4H5Br
reactant | potassium carbonate | 107 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | 4-[5-(2-Butynylamino)-6-methylamino-pyrimidine-4-yl]piperazine-1-carboxylic acid t-butyl ester | 118 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=C1NCC#CC)NC | C18H28N6O2
